US07632832B2
Step B. 4-Isopropyl-1-piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one
Diisobutylaluminum hydride (1M, 0.520 mL, 0.520 mmol) was added to a solution of methyl N-{[(1-tert-butoxycarbonylpiperidin-4-yl)amino]carbonyl}valinate (155 mg, 0.434 mmol) in toluene (3 mL) and dichloromethane (3 mL) at −78° C. and stirred for 30 min and then warmed to ambient temperature. After 1 h, the reaction was quenched with 1 N saturated potassium sodium tartrate solution (3 mL) and extracted with dichloromethane (2×). The combined organic extracts were dried over sodium sulfate, filtered, concentrated. The crude material was dissolved in dichloromethane (5 mL) and treated with trifluoroacetic acid (5 mL). After 30 min, the reaction was concentrated to give the title compound. MS 210.1 (M+1)

reactant | Diisobutylaluminum hydride | 0.520 mmol, 1M, 0.520 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl N-{[(1-tert-butoxycarbonylpiperidin-4-yl)amino]carbonyl}valinate | 0.434 mmol, 155 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)N[C@@H](C(C)C)C(=O)OC | C17H31N3O5
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-Isopropyl-1-piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one | C(C)(C)C=1NC(N(C1)C1CCNCC1)=O | C11H19N3O
